US07767675B2
Step 1. 1-[4-(2-aminopyrimidin-5-yl)phenyl]cyclopropanecarboxylic acid
A solution of sodium carbonate (0.56 g, 0.0052 mol) in water (5.0 mL) was added to a mixture of tert-butyl 1-(4-bromophenyl)cyclopropanecarboxylate (0.78 g, 0.0026 mol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (0.87 g, 0.0039 mol), and tetrakis(triphenylphosphine)palladium (0.2 g, 0.0001 mol) in toluene (10 mL) and ethanol (5 mL). The resulting mixture was heated at 120° C. for 15 min, quenched with water (5 mL), and washed with ether (3×10 mL). The precipitate in the aqueous layer was filtered, washed with water, and dried to afford the desired product (0.40 g, 60%). LCMS: (M+H)=256.1.

reactant | sodium carbonate | 0.0052 mol, 0.56 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 1-(4-bromophenyl)cyclopropanecarboxylate | 0.0026 mol, 0.78 g | BrC1=CC=C(C=C1)C1(CC1)C(=O)OC(C)(C)C | C14H17BrO2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 0.0039 mol, 0.87 g | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
solvent | water | 5.0 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.0001 mol, 0.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[4-(2-aminopyrimidin-5-yl)phenyl]cyclopropanecarboxylic acid | 0.40 g, 60% | NC1=NC=C(C=N1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C14H13N3O2
